* Z:\mnt\design.r\spice\examples\3952.asc
XU1 OUT N005 N007 0 NC_01 N002 N004 N010 N003 N003 N012 N011 N003 NC_02 NC_03 NC_04 N008 MP_05 MP_06 N008 MP_07 MP_08 IN IN 0 N001 IN N006 LT3952
V1 IN 0 12
R1 IN N001 15m
L1 N001 N002 10µ
D1 N002 OUT MBRS1100
C1 OUT 0 2.2µ x2
C2 N006 0 1µ
C3 N010 0 8.2n
R2 N011 0 90.9K
C4 N012 0 .005µ
C5 N008 0 4.7µ
D2 N009 0 LXHL-BW02
M1 N009 N007 N005 N005 Si7113DN
R3 OUT N005 .75
R4 N004 0 21.5K
R5 OUT N004 1Meg
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 2m startup
.lib LT3952.sub
.backanno
.end
